US08802697B2
Synthesis of 2-amino-5-bromo-3-fluorobenzaldehyde
A mixture of (2-amino-5-bromo-3-fluorophenyl)methanol (13 g, 59.4 mmol) and manganese oxide (31 g, 356.4 mmol) in dichloromethane (400 mL) was stirred at RT overnight. TLC showed the starting material consumed completely. The solid was filtered off, and the filtrate was concentrated to give the title compound (11 g, 85%) as a light yellow solid, which was directly used in the next step without further purification.

reactant | (2-amino-5-bromo-3-fluorophenyl)methanol | 59.4 mmol, 13 g | NC1=C(C=C(C=C1F)Br)CO | C7H7BrFNO
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | manganese oxide | 356.4 mmol, 31 g | [O-2].[Mn+2]
product | 2-amino-5-bromo-3-fluorobenzaldehyde | 11 g, 85% | NC1=C(C=O)C=C(C=C1F)Br | C7H5BrFNO
